Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
anemia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient is a ___ female with developmental delay (with 
behavioral distubrances) who is referred with findings of anemia 
on routine labs.
     
History limited as patient non verbal at baseline. History 
obtained from chart review and nursing home attendant who was at 
bedside. Attempted to call ___ managed ___ (___) but 
unable to reach her overnight. At baseline, pt is usually able 
to ambulate with walker and assistance but of late has been 
mostly confined to her whhelchair. Regularly sees cognitive 
neurology for her developmental delays and is on baclofen for 
chronic spacticity of her extremities, as well as fluvoxamine 
for mood regulation. She has chronic behavioral disturbances, 
with irritability, impulsive behaviors (often biting her hands), 
gets agitated when touched by providers, although these seem to 
have stabilized recently. 

It appears patient was noted to be requiring more assistance 
with transfers and not ambulating at all with decreased PO 
intale for the past week. ALso noted to have ankle edema for 
which she she was taken to her primary physician's office 
yesterday. Routine lab work revealed a hematocrit of 16. Per the 
attendant from her facility who accompanied her, there is no hx 
of trauma, vomiting, black or bloody stool. She does state that 
the patient goes to the restroom and flushes on her own. ROS 
otherwise could not be obtained.

 In the ED, initial VS were: 98.1 80 163/78 19 95% RA 
  
 ED physical exam was recorded as:
No ecchymosis or trauma noted, no abdominal tenderness. rectal 
vault with scant stool which was guaiac neg

ED labs were notable for: 
Hb 3.8 --> 6.8 after 2u prbc
Iron 10, ferritin 2

Pt was agitated in the ED, likely due to overstimulation per 
attendant, and was given multiple doses of Ativan.

Patient was given:
___ 00:30 IM LORazepam  ___ Administered by Other 
Person  
___ 01:56 IV Pantoprazole 80 mg ___  
___ 03:21 IM LORazepam .5 mg ___  
___ 04:58 IM LORazepam .5 mg ___  
___ 07:00 IM LORazepam  ___ Not Given  
___ 12:06 IV Lorazepam .5 mg ___  
___ 12:59 PO Loratadine 10 mg ___  
___ 12:59 PO/NG Baclofen 10 mg ___  
___ 14:22 PO/NG Fluvoxamine Maleate 100 mg ___  

She was given 2u prbc with appropriate response of Hb. GIven 
this and that she was hemodynamically stable, was admitted to 
floor.

Transfer VS were: 86 103/64 16 98% RA 
 When seen on the floor, she appeared comfortable and calm. She 
allowed an examination. ROS could not be obtained further. 
  

 
Past Medical History:
Mental retardation
 
Social History:
___
Family History:
None could be obtained due to mental status
 
Physical Exam:
Admission Exam:
 Gen: NAD, lying in bed, sleepy but arousable
 Eyes: EOMI, sclerae anicteric  
 ENT: MMM, OP clear
 Cardiovasc: RRR, no MRG, full pulses, no edema  
 Resp: normal effort, no accessory muscle use, lungs CTA ___.
 GI: soft, NT, ND, BS+
 MSK: Some kyphosis. No palpable synovitis. No edema in lower 
extremities
 Skin: No visible rash. No jaundice.
 Neuro: Moving all 4 extremities grossly
 
Discharge Exam:
Appears well and largely the same from prior documented exams, 
non-verbal and dose not make eye contact, withdraws somewhat 
when nearing her.
GI: soft, NT, ND, BS+
 
Pertinent Results:
Admission Labs:
___ 12:40AM   ALBUMIN-3.8 IRON-10*
___ 12:40AM   calTIBC-507* VIT B12-977* HAPTOGLOB-159 
FERRITIN-2.4* TRF-390*
___:40AM   NEUTS-62.5 ___ MONOS-10.0 EOS-3.0 
BASOS-0.2 NUC RBCS-0.5* IM ___ AbsNeut-3.57 AbsLymp-1.36 
AbsMono-0.57 AbsEos-0.17 AbsBaso-0.01
___ 12:40AM   PLT COUNT-352
___ 12:05PM   GLUCOSE-99
___ 12:05PM   ALT(SGPT)-14 AST(SGOT)-16 LD(LDH)-209
___ 12:05PM   WBC-7.2 RBC-2.89*# HGB-3.8*# HCT-16.8*# 
MCV-58*# MCH-13.1*# MCHC-22.6*# RDW-23.0* RDWSD-46.7*
 
Discharge Labs:
___ 05:20AM BLOOD WBC-8.2 RBC-UNABLE TO  Hgb-7.6* Hct-28* 
MCV-UNABLE TO  MCH-UNABLE TO  MCHC-UNABLE TO  RDW-UNABLE TO  
RDWSD-UNABLE TO  Plt ___
___ 05:20AM BLOOD Glucose-89 UreaN-12 Creat-1.0 Na-142 
K-4.8 Cl-104 HCO3-27 AnGap-16
___ 07:40AM BLOOD Albumin-3.4*
 
Pertinent Labs:
___ 12:40AM BLOOD calTIBC-507* VitB12-977* Hapto-159 
Ferritn-2.4* TRF-390*
___ 12:05PM BLOOD TSH-2.5
___ 05:20AM BLOOD IgA-264
___ 07:40AM BLOOD tTG-IgA-7
 
Imaging: None
 
Brief Hospital Course:
___ yo female with developmental delay, chronic spasticity, 
admitted with profound iron-deficiency anemia (Hgb 3.4 on 
presentation)
    
# Iron deficiency anemia: 
Acute on likely chronic anemia related to iron deficiency. We 
only have labs available from ___, at which time she had a very 
mild microcytic anemia. There were no systemic symptoms or signs 
of severe anemia and she was without of tachycardia/hypotension 
and overall benign appearance suggest a chronic process. There 
was no melena or BRBPR, no hemolysis evident on labs or evidence 
of ecchymoses or hematoma. After receiving 2u PRBCs, her Hgb 
improved to 6.5 and continued to rise despite no further blood 
transfusions being given (6.5 -> 7.0 -> 7.4). GI was consulted 
and original plan was for EGD and colonoscopy to evaluate for 
unexplained iron deficiency. However, ___ was unable to 
tolerate a prep including with flavoring. The only option would 
be for NGT and possible restraints. In several extensive 
discussions with family they were opposed to restraints and NGT 
for preparation so decision ultimately came down to watchful 
waiting with serial CBCs. If H/H begins downtrending despite 
supplemental Fe then she can return for a direct admission for 
planned EGD and ___. (See extensive GI note in OMR for details 
regarding discussion with family about the plan). Ant-TTG and 
total IgA were normal. She was started on an oral iron 
supplement, oral PPI empirically for potential gastritis and 
miralax to prevent constipation while on iron. 
 
Transitional Issues:
- If H/H continues to drop in observation then she can be 
directly admitted for inpatient EGD and colonoscopy prep which 
will require NG tube be placed and
likely restraints. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Baclofen 10 mg PO BID 
2. Fluvoxamine Maleate 100 mg PO BID 
3. Loratadine 10 mg PO DAILY 
4. LORazepam 0.5 mg PO DAILY:PRN agitation 

 
Discharge Medications:
1.  Ferrous Sulfate 325 mg PO BID 
RX *ferrous sulfate [iron] 325 mg (65 mg iron) 1 tablet(s) by 
mouth twice a day Disp #*60 Tablet Refills:*0 
2.  Omeprazole 20 mg PO BID 
RX *omeprazole 20 mg 1 capsule(s) by mouth twice a day Disp #*60 
Capsule Refills:*0 
3.  Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 17 gram/dose 1 powder(s) by mouth 
Daily Refills:*0 
4.  Baclofen 10 mg PO BID  
5.  Fluvoxamine Maleate 100 mg PO BID  
6.  Loratadine 10 mg PO DAILY  
7.  LORazepam 0.5 mg PO DAILY:PRN agitation  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Active:
- Acute on chronic iron deficiency anemia

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Lethargic but arousable.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___, 
    
You were admitted to the hospital for evaluation of severe 
anemia (low red blood counts). You were found to be 
significantly iron deficient. You received two units of blood 
transfusions with improvement in blood levels. You were 
evaluated by our gastroenterology service, who recommended an 
performing an endoscopy and colonoscopy but we were unable to 
complete a preparation for the procedure. Since your blood 
remained stable you are being discharged to continue taking iron 
and have repeat labs drawn by your primary care doctor. 
 
Followup Instructions:
___